US05089495
Using a similar procedure to that described in Example 8, 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide was reacted with 2-[1(5-fluoro-3-hydroxyphenyl)-1-methoxypropyl]thiazole to give 2-[1-[5-fluoro-3-(3 (2-pyridyl)prop-2-yn-1-yloxy)phenyl]-1-methoxypropyl]-thiazole in 54% yield, as an oil.

reactant | 3-(2-pyridyl)prop-2-yn-1-yl bromide hydrobromide | Br.N1=C(C=CC=C1)C#CCBr
reactant | 2-[1(5-fluoro-3-hydroxyphenyl)-1-methoxypropyl]thiazole | FC=1C=C(C=C(C1)C(CC)(OC)C=1SC=CN1)O | C13H14FNO2S
product | 2-[1-[5-fluoro-3-(3 (2-pyridyl)prop-2-yn-1-yloxy)phenyl]-1-methoxypropyl]-thiazole | 54% yield | FC=1C=C(C=C(C1)C(CC)(OC)C=1SC=CN1)OCC#CC1=NC=CC=C1 | C21H19FN2O2S
